US07423159B2
A mixture of 2-(ethoxycarbonyloxy)-3-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-2-propenoyl}amino)phenyl]propionamide (420 mg), 1,8-diazabicyclo[5.4.0]-7-undecene (266 mg) and acetonitrile (10 ml) was stirred at room temperature for 1 hr. The reaction mixture was concentrated and diluted with ethyl acetate. The mixture was successively washed with a 1N aqueous hydrochloric acid solution, water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated to give (2E)-N-{4-[(2,4-dioxo-1,3-oxazolidin-5-yl)methyl]phenyl}-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylamide (293 mg, 77%) as colorless crystals.

reactant | 2-(ethoxycarbonyloxy)-3-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-2-propenoyl}amino)phenyl]propionamide | 420 mg | C(C)OC(=O)OC(C(=O)N)CC1=CC=C(C=C1)NC(\C=C\C=1C=NN(C1C1=CC=C(C=C1)F)C)=O | C25H25FN4O5
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 266 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (2E)-N-{4-[(2,4-dioxo-1,3-oxazolidin-5-yl)methyl]phenyl}-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylamide | 293 mg, 77% | O=C1OC(C(N1)=O)CC1=CC=C(C=C1)NC(\C=C\C=1C=NN(C1C1=CC=C(C=C1)F)C)=O | C23H19FN4O4
